US07875645B2
Butyl-[1-(2-chloro-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine was prepared from 2-chloro-3,6-difluorobenzaldehyde, N-butylamine and p-toluenesulphonic acid in analogy to Example 191a): yellow oil; MS (ISP): 234.1 ([M+H]+, 30%), 232.3 ([M+H]+, 100%).

reactant | 2-chloro-3,6-difluorobenzaldehyde | ClC1=C(C=O)C(=CC=C1F)F | C7H3ClF2O
reactant | N-butylamine | C(CCC)N | C4H11N
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Butyl-[1-(2-chloro-3,6-difluoro-phenyl)-meth-(E)-ylidene]-amine | C(CCC)/N=C/C1=C(C(=CC=C1F)F)Cl | C11H12ClF2N
